US05324747
A mixture of 20.0 g (0.0493 mol) of 3,5-bis(decyloxy)benzenamine, 23.6 ml (0.148 mol) of benzyl bromoacetate, 26.4 (0.123 mol) of 1,8-bis(dimethylamino)naphthalene and 2.1 g of sodium iodide in 300 ml acetonitrile and 65 ml of DMF was stirred at reflux for 48 hours. The reaction mixture was concentrated under reduced pressure and the residue was extracted with ethyl acetate. The extract was washed with 0.5N HCl, with saturated NaHCO3, dried and concentrated under reduced pressure to an oil. Purification by HPLC using 10% ethyl acetate-hexane gave 15.7 g (45% yield, mp 55°-57°) of N-[3,5-bis(decyloxy)phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine phenylmethyl ester.

reactant | 3,5-bis(decyloxy)benzenamine | 0.0493 mol, 20.0 g | C(CCCCCCCCC)OC=1C=C(C=C(C1)OCCCCCCCCCC)N | C26H47NO2
reactant | benzyl bromoacetate | 0.148 mol, 23.6 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | 1,8-bis(dimethylamino)naphthalene | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | sodium iodide | 2.1 g | [I-].[Na+]
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | DMF | 65 ml | CN(C)C=O | C3H7NO
product | N-[3,5-bis(decyloxy)phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine phenylmethyl ester | 15.7 g, 45% yield | C1(=CC=CC=C1)COC(CN(CC(OCC1=CC=CC=C1)=O)C1=CC(=CC(=C1)OCCCCCCCCCC)OCCCCCCCCCC)=O | C44H63NO6
